US08003645B2
(1B) 6-ethyl-N,N′-bis(3-hydroxyphenyl)-1,3,5-triazine-2,4-diamine
After dissolving 3-aminophenol (2.18 g, 20 mmol) in 1,4-dioxane (20.0 mL), 2,4-dichloro-6-ethyl-1,3,5-triazine (1.78 g, 10 mmol) was added and stirring carried out for 3 hours at 100° C. under a nitrogen atmosphere.

reactant | 3-aminophenol | 20 mmol, 2.18 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 2,4-dichloro-6-ethyl-1,3,5-triazine | 10 mmol, 1.78 g | ClC1=NC(=NC(=N1)Cl)CC | C5H5Cl2N3
solvent | 1,4-dioxane | 20.0 mL | O1CCOCC1 | C4H8O2
product | 6-ethyl-N,N′-bis(3-hydroxyphenyl)-1,3,5-triazine-2,4-diamine | C(C)C1=NC(=NC(=N1)NC1=CC(=CC=C1)O)NC1=CC(=CC=C1)O | C17H17N5O2
